US08609727B2
4-[(3E)-2-[2-(4-Cyanophenyl)ethyl]-4-(2-methoxyphenyl)but-3-en-1-yl]benzoic Acid
A solution of 744 mg (1.75 mmol) of methyl 4-[(3E)-2-[2-(4-cyanophenyl)ethyl]-4-(2-methoxyphenyl)but-3-en-1-yl]benzoate in 24 ml of THF and 24 ml of water is mixed with 84 mg (3.5 mmol) of lithium hydroxide and stirred at 50° C. for 12 h. After conversion is complete, the reaction solution is diluted with diethyl ether and water, and the phases are separated. The aqueous phase is acidified with 1 M hydrochloric acid and extracted with diethyl ether. The resulting organic phase is washed with sodium chloride solution, dried over sodium sulphate and evaporated. 606 mg (1.5 mmol, 97% of theory) of the title compound are obtained.

reactant | methyl 4-[(3E)-2-[2-(4-cyanophenyl)ethyl]-4-(2-methoxyphenyl)but-3-en-1-yl]benzoate | 1.75 mmol, 744 mg | C(#N)C1=CC=C(C=C1)CCC(CC1=CC=C(C(=O)OC)C=C1)\C=C\C1=C(C=CC=C1)OC | C28H27NO3
reactant | lithium hydroxide | 3.5 mmol, 84 mg | [OH-].[Li+]
solvent | THF | 24 ml | C1CCOC1 | C4H8O
solvent | water | 24 ml | O | H2O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 4-[(3E)-2-[2-(4-Cyanophenyl)ethyl]-4-(2-methoxyphenyl)but-3-en-1-yl]benzoic Acid | C(#N)C1=CC=C(C=C1)CCC(CC1=CC=C(C(=O)O)C=C1)\C=C\C1=C(C=CC=C1)OC | C27H25NO3
